datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])[H:12])([H:8])([H:9])[H:10].[H:11][O:24][O:25],199.11656
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25],30.5432
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][O:13][O:14][H:15],3.38904
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[H:13]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:7])[H:13])([H:5])[H:6],10.96208
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14],113.102
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:12].[C:7](=[C:8]=[C:9]([H:13])[H:14])([H:10])[H:11],25.104
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([H:13])[H:14])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:11])[H:4].[C:9](=[C:10]([H:13])[H:14])[H:12],106.064
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])[H:6],14.8532
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([C:17]([H:26])([H:27])[H:28])([O:18][O:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:19][O:18][C:16]([C:15]([C:14]([H:20])([H:21])[H:22])([H:23])[H:24])([C:17]([H:26])([H:27])[H:28])[H:25],66.944
[C:4]([H:5])([H:6])[H:7].[N:0]#[C:1][O:2][H:3]>>[H:3][C:4]([H:5])([H:6])[H:7].[N:0]#[C:1][O:2],27.668792
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])([H:4])[H:5],53.5134
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:6])[H:7].[H:5][O:13][H:14],-1.246832
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39][H:40]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14].[H:12][O:38][O:39][H:40],68.99416
[O:0]=[C:1]([O:2][O:3][H:5])[H:4]>>[O:0]=[C:1]([O:2])[H:4].[O:3][H:5],167.9876
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]=[O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:11]([C:10]([H:13])([H:14])[H:15])=[O:12],177.164
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],-4.47688
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])([H:5])[H:6],52.5929
